US05039675
N1 -benzoyl-N2 -methyl-N3 -[3-[5-(4-methyl-6-oxo-1,4,5,6-tetrahydropyridazin -3-yl)-1H-benzimidazol-2-yl]propyl]guanidine
0.44 g (1.54 mmol) of 6-[2-(3-aminopropyl)-1H-benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone and 0.43 g (1.71 mmol) of N1 -benzyl-N2 -cyano-0-phenyl-isourea are boiled under reflux in 20 ml of isopropanol for 4 hours. The solid obtained after cooling of the solution to room temperature is suction filtered and recrystallized from methanol. 0.28 g (41%) of colorless crystals melting at 270° C. are obtained.

reactant | 6-[2-(3-aminopropyl)-1H-benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 1.54 mmol, 0.44 g | NCCCC1=NC2=C(N1)C=CC(=C2)C=2C(CC(NN2)=O)C | C15H19N5O
reactant | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | N1 -benzoyl-N2 -methyl-N3 -[3-[5-(4-methyl-6-oxo-1,4,5,6-tetrahydropyridazin -3-yl)-1H-benzimidazol-2-yl]propyl]guanidine | 0.28 g, 41% | C(C1=CC=CC=C1)(=O)NC(=NC)NCCCC1=NC2=C(N1)C=CC(=C2)C2=NNC(CC2C)=O | C24H27N7O2
